US08420647B2
[4-(2,5-Dichloro-phenoxy)-pyrimidin-5-yl]-(3,4-dihydro-2H-quinoxalin-1-yl)-methanone
The title compound was prepared in analogy to Example 77, from 4-(2,5-dichloro-phenoxy)-pyrimidine-5-carboxylic acid (Example 76, intermediate a) and 1,2,3,4-tetrahydroquinoxaline (commercially available, CAS RN 3476-89-9). The compound was purified by preparative HPLC (Phenomenex Gemini column) using a gradient of acetonitrile:water (10:90 to 98:2) to give 16 mg (20%) of the desired compound. MS (ESI): m/z=401.0 [M+H]+.

reactant | 4-(2,5-dichloro-phenoxy)-pyrimidine-5-carboxylic acid | ClC1=C(OC2=NC=NC=C2C(=O)O)C=C(C=C1)Cl | C11H6Cl2N2O3
reactant | 1,2,3,4-tetrahydroquinoxaline | N1CCNC2=CC=CC=C12 | C8H10N2
product | [4-(2,5-Dichloro-phenoxy)-pyrimidin-5-yl]-(3,4-dihydro-2H-quinoxalin-1-yl)-methanone | 16 mg, 20% | ClC1=C(OC2=NC=NC=C2C(=O)N2CCNC3=CC=CC=C23)C=C(C=C1)Cl | C19H14Cl2N4O2
